US05182289
2-methoxy-N-phenyl-3-phenylthio-1H-pyrrolo(2,3-b)-pyridine
Add 1,3-dihydro-N-phenyl-3-(phenylthio)-2H-pyrrolo(2,3-b)pyridine (4.0 g, 12.6 mmole) portionwise to potassium hydride (KH) (1.73 g of 35 weight-percent KH in oil, washed with hexane, 15.1 mmole) in dry DMF (50 mL) at 0° C. under a nitrogen atmosphere. Stir for 45 minutes at 0° C. Add methyl tosylate(3.04 g, 16.3 mmole), and warm the reaction mixture up to room temperature slowly. Stir for 16 hours at room temperature. Remove DMF by high vacuum distillation. Add saturated aqueous NH4Cl (150 mL) and extract with ethyl acetate. Wash the organic extracts with saturated aqueous NaCl, dry with MgSO4, filter and rotoevaporate to give an oil. Dissolve oil in dichloromethane and chromatograph on silica gel, eluting with ethyl acetate:hexane (1:6). Combine appropriate fractions and concentrate under reduced pressure to give an oil. Crystallize the oil with diethyl ether-hexane to give the title compound as a white solid (1.05 g, m.p.=86°-87.5° C.).

reactant | 1,3-dihydro-N-phenyl-3-(phenylthio)-2H-pyrrolo(2,3-b)pyridine | 12.6 mmole, 4.0 g | C1(=CC=CC=C1)N1CC(C=2C1=NC=CC2)SC2=CC=CC=C2 | C19H16N2S
reactant | potassium hydride | 15.1 mmole, 1.73 g | [H-].[K+]
reactant | methyl tosylate | 16.3 mmole, 3.04 g | S(=O)(=O)(OC)C1=CC=C(C)C=C1 | C8H10O3S
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-methoxy-N-phenyl-3-phenylthio-1H-pyrrolo(2,3-b)-pyridine | 1.05 g | COC1=C(C=2C(=NC=CC2)N1C1=CC=CC=C1)SC1=CC=CC=C1 | C20H16N2OS
